US06528653B2
tert-Butyl 5,6-dihydro-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxylate (32 mg, 0.2 mmol) was dissolved in a solution of 1% piperidine in 2-propanol (1 ml). Pyrrole-2-carboxaldehyde (0.39 mmol, 37 mg) was added in one portion and the mixture heated at 75° C. for 1 hour. The reaction mixture was poured into an ice/water mixture (6 ml) and the precipitated solid was collected by filtration and washed with water to give 10 mg of tert-butyl (Z)-5,6-dihydro-5-oxo-4-[(1H-pyrrol-2-yl)methylene]-4H-thieno[2,3-b]pyrrole-2-carboxylate as a yellow solid. MS(ES): m/e 317 [M+H].

reactant | tert-Butyl 5,6-dihydro-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxylate | 0.2 mmol, 32 mg | O=C1CC2=C(N1)SC(=C2)C(=O)OC(C)(C)C | C11H13NO3S
reactant | Pyrrole-2-carboxaldehyde | 0.39 mmol, 37 mg | N1C(=CC=C1)C=O | C5H5NO
solvent | piperidine | N1CCCCC1 | C5H11N
solvent | 2-propanol | 1 ml | CC(C)O | C3H8O
product | tert-butyl (Z)-5,6-dihydro-5-oxo-4-[(1H-pyrrol-2-yl)methylene]-4H-thieno[2,3-b]pyrrole-2-carboxylate | 10 mg | O=C1\C(\C2=C(N1)SC(=C2)C(=O)OC(C)(C)C)=C/C=2NC=CC2 | C16H16N2O3S
